Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
Crohn's Disease
 
Major Surgical or Invasive Procedure:
Sigmoidoscopy

 
History of Present Illness:
PCP: ___ ___

___ year old Male transferred from ___ ___, with 
complaints of fever to 102.3, diahrea in refractory crohn's 
disease flare. The patient was diagnosed with crohn's disease 
___, and was started on 3 weeks of TPN, given steroid, which 
did not work. He notes that with the initial crohn's flare he 
lost 50 pounds, although with the TPN he gained back 15. He also 
notes that his prior hypertension resolved with the weight loss.

Ultimately he was started on remicade, which was complicated by 
a prior + PPD which was not completely treated with INH due to 
elevated LFT's. The decision was made that even though a PPD 
currently was negative that this could have been masked with 
steroids, so he is on INH and remicade. He recieved 2 infusions 
on ___ and ___ with no relief. The pateint reports 
that he has had 5 days of chills, fevers, apthous ulcers and 
diarhea. He presented to the ___ with dehydration and was 
given IV fluids.
 
Past Medical History:
Crohn's Disease diagnosed ___
GERD
Diverticulosis
Nephrolithiasis
(+) PPD on INH
 
Social History:
___
Family History:
Father: DM, CAD/CABG
Mother: Healthy
 
Physical ___:
ROS:
GEN: + fevers, + Chills, + Weight Loss
EYES: - Photophobia, - Visual Changes
HEENT: - Oral/Gum bleeding, + Apthous Ulcers
CARDIAC: - Chest Pain, - Palpitations, - Edema
GI: - Nausea, - Vomitting, + Diarhea, + Abdominal Pain, - 
Constipation, - Hematochezia
PULM: - Dyspnea, - Cough, - Hemoptysis
HEME: - Bleeding, - Lymphadenopathy
GU: - Dysuria, - hematuria, - Incontinence
SKIN: + Rash
ENDO: - Heat/Cold Intolerance
MSK: - Myalgia, - Arthralgia, - Back Pain
NEURO: - Numbness, - Weakness, - Vertigo, - Headache
 
PHYSICAL EXAM:
VSS: tM 102.3, 99.7, 134/87, 111, 20, 96%
GEN: NAD, Obese
Pain: ___
HEENT: PERRLA, EOMI, MMM, Possible thrush
PUL: CTA B/L
COR: RRR, S1/S2, - MRG
ABD: NT/ND, +BS, - CVAT
EXT: - CCE
NEURO: CAOx3, CN II-XII grossly nl, motor ___ ___ 
spread, Baninksy absent, reflexes 2+

 
Pertinent Results:
___ 09:45PM BLOOD WBC-5.1 RBC-3.56* Hgb-10.0* Hct-30.7* 
MCV-86 MCH-28.0 MCHC-32.6 RDW-14.0 Plt ___
___ 09:45PM BLOOD Neuts-62 Bands-6* ___ Monos-5 Eos-1 
Baso-0 ___ Metas-2* Myelos-0 NRBC-1*
___ 09:45PM BLOOD Glucose-95 UreaN-7 Creat-0.7 Na-136 K-3.6 
Cl-102 HCO3-24 AnGap-14
___ 09:45PM BLOOD Glucose-95 UreaN-7 Creat-0.7 Na-136 K-3.6 
Cl-102 HCO3-24 AnGap-14
___ 09:45PM BLOOD Mg-1.5*
___ 09:58PM BLOOD Lactate-1.0

EKG: OSH had QTx > 490, but repeat here NSR@103, QTc 435, Q-wave 
III

Micro blood cultures no growth; stool cultures no growth
CMV viral load undetectable.
 
Brief Hospital Course:
Crohn's Disease: The patient has failed induction therapy with 
steroids and remicaide.  He was sent to ___ for consideration 
of cyclosporine by Dr. ___ gastroenterologist.  He 
underwent a sigmoidoscopy on ___ which revealed discrete large 
colonic ulcers consistent with a Crohn's flare. He underwent a 
biopsy which revealed: A.  Sigmoid colon, biopsy:  Severely 
active colitis with ulceration.B.  Rectum, biopsy:   Mildly 
active colitis, focal architectural distortion.Note:  No 
granulomata or dysplasia identified; immunostains for CMV are 
negative in both parts.
He had significant bleeding x 24 hours after the procedure which 
required 1 uPRBC blood transfusion and then hct remained stable. 
 He was started on IV cyclosporine drip and cortefoam enemas. He 
was transitioned to oral cyclosporine and continued to have 
improvement with less frequent and more formed stools. CMV viral 
load was negative, stool studies were negative, C diff negative. 
 He was treated empirically with cipro and flagyl and will 
complete an empiric 10 day courwe of these. Will f/u with Dr. 
___ in 2 weeks.

Oral ulcers: likely apthous ulcers related to crohn's v oral 
HSV. Responded well to medicated mouthwash

Positive PPD: Treated in past for unclear duration.  Stopped due 
to elevated LFTs.  He was continued on INH and B6 inpt. Had mild 
transaminitis x1 day which resolved on its own.

Depression/anxiety- he was continued on fluoxetine
 
Medications on Admission:
Simvastatin 20mg Daily
Melatnonin 5mg HS PRN
Prozac 40mg PO Daily
INH 300mg PO Daily
Ativan 0.5mg TID PRN
Prilosec 20mg PO Daily
Hyoscyomine 0.125mg ___ tabs TID PRN
Remicade 5mg/Kg
 
Discharge Medications:
1. multivitamin     Tablet Sig: One (1) Cap PO DAILY (Daily).  
2. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. fluoxetine 20 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
5. isoniazid ___ mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
7. pyridoxine 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
8. cyclosporine 100 mg Capsule Sig: 2.5 Capsules PO Q12H (every 
12 hours) for 30 days.
Disp:*150 Capsule(s)* Refills:*0*
9. hydrocortisone acetate 10 % (80 mg) Foam Sig: One (1) Appl 
Rectal at bedtime for 30 days.
Disp:*30 appllicator* Refills:*0*
10. hyoscyamine sulfate 0.125 mg Tablet, Sublingual Sig: One (1) 
Tablet, Sublingual Sublingual TID (3 times a day) as needed for 
mouth cramps.  
11. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for anxiety/insomnia.  
12. ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 4 days.
Disp:*8 Tablet(s)* Refills:*0*
13. metronidazole 500 mg Tablet Sig: One (1) Tablet PO Q8H 
(every 8 hours) for 4 days.
Disp:*12 Tablet(s)* Refills:*0*
14. ferrous sulfate 300  mg (60 mg Iron) Tablet Sig: One (1) 
Tablet PO TID (3 times a day) for 30 days: please take at least 
two hours after ciprofloxacin.
Disp:*90 Tablet(s)* Refills:*0*
15. ___ 200-25-400-40 mg/30 mL 
Mouthwash Sig: One (1) ___ Mucous membrane qid prn for 14 
days.
Disp:*500 mL* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:  
Crohn's Flare 
Gastrointestinal bleeding 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with diarrhea deemed to be a 
Crohn's flare.   You were treated initially with IV cyclosporine 
and did well.  You were transitioned to oral cyclosporine and 
continued to improve.

Please continue to take your medications as prescribed and make 
your follow up appointments.
 
Followup Instructions:
___